US08470820B2
Step 5: 3-Bromo-6-methoxymethyl-pyridine-2-carboxylic acid
To a solution of 3-bromo-6-methoxymethyl-pyridine-2-carbonitrile (300 mg, 1.32 mmol) in MeOH (6 ml) was added a solution of potassium hydroxide (1.48 g, 26.43 mmol) in water (4 ml). The mixture was refluxed for 3 hours. MeOH was removed in vacuo, the aqueous solution was neutralized with conc. HCl under cooling, and the mixture was extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried, filtered and evaporated. The obtained product (276 mg, 85%) was used in the next step without any further purification.

reactant | 3-bromo-6-methoxymethyl-pyridine-2-carbonitrile | 1.32 mmol, 300 mg | BrC=1C(=NC(=CC1)COC)C#N | C8H7BrN2O
reactant | potassium hydroxide | 26.43 mmol, 1.48 g | [OH-].[K+]
reactant | MeOH | 6 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-Bromo-6-methoxymethyl-pyridine-2-carboxylic acid | BrC=1C(=NC(=CC1)COC)C(=O)O | C8H8BrNO3
